US08802853B2
Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.112 g, 0.03 eq.), 2-iodothiophene (3.9 g, 1.1 eq.), triethylamine (1.1 g, 3 eq.), and copper (I) iodide (0.042 g, 0.06 eq.) were added sequentially to a solution of 2-ethyl-1-(4-pentynyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 3.5 mmol, 1.0 eq.) in dichloromethane (20 mL). The reaction mixture was stirred at ambient temperature for 6 hours at which time analysis by liquid chromatography/mass spectroscopy indicated that the reaction was complete. The reaction mixture was absorbed onto the top of a column of silica gel (30 g) and the column was eluted sequentially with dichloromethane and 3/97 methanol/dichloromethane. The product was recrystallized from 1,2-dichloroethane to provide 0.25 g of 2-ethyl-1-[5-(thien-2-yl)-4-pentynyl]-1H-imidazo[4,5-c]quinolin-4-amine as an off white powder, mp 175.0-190.0° C. (dec.). 1H NMR (300 MHz, CDCl3) δ 8.09 (dd, J=8.3, 1.0 Hz, 1H), 7.82 (dd, J=8.3, 1.0 Hz, 1H), 7.48 (ddd, J=8.4, 6.9, 1.3 Hz, 1H), 7.24 (m, 3H), 6.99 (dd, J=5.1, 3.6 Hz, 1H), 5.37 (s, 2H), 4.65 (t, J=7.7 Hz, 2H), 3.01 (q, J=7.5 Hz, 2H), 2.63 (t, J=6.2 Hz, 2H), 2.23 (m, 2H), 1.49 (t, J=7.4 Hz, 3H); MS (APCI) m/z 361 (M+H)+; Anal. calcd for C21H20N4S.0.03C2H4Cl2: C, 69.88; H, 5.59; N, 15.51. Found: C, 69.59; H, 5.69; N, 15.34.

reactant | 2-iodothiophene | 3.9 g, 1.1 eq. | IC=1SC=CC1 | C4H3IS
reactant | triethylamine | 1.1 g, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-1-(4-pentynyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.5 mmol, 1.0 g, 1.0 eq. | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC#C | C17H18N4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.112 g, 0.03 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | copper (I) iodide | 0.042 g, 0.06 eq. | [Cu]I
product | 2-ethyl-1-[5-(thien-2-yl)-4-pentynyl]-1H-imidazo[4,5-c]quinolin-4-amine | 0.25 g | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC#CC=1SC=CC1 | C21H20N4S
